US06048842
3-(5-Benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (2.50 g) is dissolved in acetone (20 ml), and thereto are added potassium carbonate (2.13 g) and allyl bromide (933 mg), and the mixture is refluxed for 6 hours. After cooling, the reaction mixture is poured into ice-water, and the mixture is extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give 3-(5-benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-allyloxy-4'-methylpropiophenone (1.63 g).

reactant | 3-(5-Benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 2.50 g | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C24H26O9
reactant | potassium carbonate | 2.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 933 mg | C(C=C)Br | C3H5Br
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(5-benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-allyloxy-4'-methylpropiophenone | 1.63 g | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2OCC=C)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C27H30O9
